US05231102
Cis-2,4-dibenzyloxycarbonyl-5,7-dichloro-1,2,3,4-tetrahydroquinoline (0.23 g) was dissolved in 50% aqueous methanol (30 ml) and 1N sodium hydroxide (0.54 ml, 1.1 molar equivalents) was added and the reaction mixture was stirred for 14 h at room temperature. The solvents were removed in vacuo to give a residue which was dissolved in water (30 ml) and washed with diethyl ether (2×30 ml). The aqueous layer was acidified to pH 1 with dilute hydrochloric acid and extracted into diethyl ether (2×30 ml) then dried (Na2SO4), filtered and concentrated in vacuo to leave a residue which was purified by chromatography on silica gel with 2.5% methanol, 0.5% acetic acid and 97% dichloromethane as eluent. The solid obtained on evaporation was recrystallised from diethyl ether/hexane to give, as a colourless solid, cis-4-benzyloxycarbonyl-2-carboxy-1,2,3,4-tetrahydroquinoline (0.027 g, m.p. 144° C. dec). δ (360 MHz, CDCl3) 2.35 (1H, m, CHACHBHCCHD), 2.81 (1H, dm, J=13.9 Hz, CHACHBHCCHD), 4.03 (2H, m, CHACHBHCCHD), 5.07 (2H, s, PhCH2), 6.57 (1H, d, J=1.5 Hz, 6-H or 8-H), 6.77 (1H, d, J=1.5 Hz, 6-H or 8-H), 7.32 (5H, m, Ph); m/e 379 (M+), 198 (100%); Found: C, 56.53; H, 4.00; N, 3.65 . C18H15Cl2NO4 requires C, 56.86; H, 3.98; N, 3.68%.

reactant | Cis-2,4-dibenzyloxycarbonyl-5,7-dichloro-1,2,3,4-tetrahydroquinoline | 0.23 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1NC2=CC(=CC(=C2[C@@H](C1)C(=O)OCC1=CC=CC=C1)Cl)Cl | C25H21Cl2NO4
reactant | sodium hydroxide | 1N, 0.54 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | cis-4-benzyloxycarbonyl-2-carboxy-1,2,3,4-tetrahydroquinoline | 0.027 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1C[C@@H](NC2=CC=CC=C12)C(=O)O | C18H17NO4
